US06242443B1
3-(2-Aminoethyl)amino-7-chloro-4H-1,2,4-benzothiadiazine 1,1-dioxide monohydrate
A solution of 7-chloro-3-methylsulfanyl-4H-1,2,4-benzothiadiazine 1,1-dioxide (1 g) in ethylenediamine (2.5 mL) was refluxed for 45 min. Most of the excess of amine was removed by distillation under reduced pressure and the resulting oily residue was dissolved in methanol (10 mL). Addition of diethylether (40 mL) gave rise to the precipitation of an oil which turned to a white solid after a stirring of 30 min. at 0° C. The precipitate was collected by filtration, washed with diethylether and dried. The solid was dissolved in boiling water (40 mL) and traces of insoluble material were removed by filtration. The filtrate was concentrated to the half volume by distillation under reduced pressure and placed at +4° C. for 2 h. The crystalline precipitate of the title compound was cpllected by filtration, washed with a small volume of water and dried to give the title compound (yield: 0.62 g); m.p. 200-204° C.; IR (KBr): 3498, 3372, 2932, 1637, 1560, 1481, 1264, 1163 cm−1; 1H-NMR (DMSO-d6, HMDS; δ ppm): 2.70 (t, 2H, NH—CH2—CH2—NH2), 3.20 (t, 2H, NH—CH2—CH2—NH2), 5.25 (b, 6H, 2×NH+H2O+NH2), 6.95 (d, 1H, 5-H), 7,30 (d, 1H, 6-H), 7.45 (s, 1H, 8-H).

reactant | 7-chloro-3-methylsulfanyl-4H-1,2,4-benzothiadiazine 1,1-dioxide | 1 g | ClC1=CC2=C(NC(=NS2(=O)=O)SC)C=C1 | C8H7ClN2O2S2
reactant | ethylenediamine | 2.5 mL | C(CN)N | C2H8N2
product | 3-(2-Aminoethyl)amino-7-chloro-4H-1,2,4-benzothiadiazine 1,1-dioxide monohydrate | yield: 0.62 g | O.NCCNC1=NS(C2=C(N1)C=CC(=C2)Cl)(=O)=O | InChI=1S/C9H11ClN4O2S.H2O/c10-6-1-2-7-8(5-6)17(15,16)14-9(13-7)12-4-3-11;/h1-2,5H,3-4,11H2,(H2,12,13,14);1H2
